US04622389
2.7 Grams (3.5 mM) of Z-D-Lys(BOC)-Gly-Arg-CHA.HCl was dissolved in a small amount of MeOH, followed by addition of 7 ml of 2N-HCl/AcOH and the mixture was reacted at room temperature for 1 hour. The reaction mixture was reprecipitated from dry diethyl ether and the crystals precipitated were collected by filtration and dried to obtain crude Z-D-Lys-Gly-Arg-CHA.2HCl. This crude product was purified by means of a column chromatography by using "TOYOPEARL HW 40F" column using MeOH as a developing solvent to obtain 1.8 g (74.6%) of Z-D-Lys-Gly-Arg-CHA.2HCl. Rf2 =0.31. Melting point: 220.0° C. (decomposed). [α]D20 -16.0 (C=1, 50% AcOH).

reactant | Z-D-Lys(BOC)-Gly-Arg | 3.5 mM | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C27H43N7O8
reactant | HCl | Cl | ClH
reactant | HCl AcOH | Cl.CC(=O)O
solvent | MeOH | CO | CH4O
product | Z-D-Lys-Gly-Arg | 1.8 g, 74.6% | N([C@H](CCCCN)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H35N7O6
